US05484926
3-methylisonicotinic acid
To a hot (155° C.) solution of 10.7 g (0.1 mol) of 3,4-lutidine in 100 mL diphenylether, was added 18 g (0.16 mol) selenium dioxide in portions. After about 20 minutes, the reaction was heated to 185° C. and allowed to react for approximately thirty minutes. After cooling, the reaction mixture was diluted with water and filtered. The filtrate was extracted with chloroform and the chloroform extracts were then concentrated under reduced pressure to provide 6.0 g of a pale brown solid.

reactant | 3,4-lutidine | 0.1 mol, 10.7 g | N1=CC(=C(C=C1)C)C | C7H9N
reactant | selenium dioxide | 0.16 mol, 18 g | [Se](=O)=O | O2Se
reactant | water | O | H2O
solvent | diphenylether | 100 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-methylisonicotinic acid | 6.0 g, Yield: 44% | CC1=C(C(=O)O)C=CN=C1 | C7H7NO2
